US07612211B2
D. 2-hydroxy-1-{2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-phenyl}-propan-1-one
A mixture of 5-{2-[2-(tert-butyl-dimethyl-silanyloxy)-3-methyl-oxiranyl]-phenyl}-2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazole (0.040 g, 0.0721 mmol) and toluenesulfonic acid monohydrate (0.016 g, 0.0865 mmol) in THF (2 mL) was heated to 80° C. for 4 hours. The reaction mixture was then concentrated, and the residue was purified by chromatography (silica, hexanes: EtOAc, 1:2) to afford the title compound as a brown oil (0.028 g, 89%). 1H NMR (400 MHz, CD3OD) δ (ppm): 7.66-7.56 (m, 4H), 7.53-7.45 (m, 4H), 7.26-7.22 (m, 3H), 5.43 (s, 2H), 4.12-4.03 (m, 1H), 1.03 (d, 3H, J=7.2 Hz). Mass Spectrum (LCMS, ESI pos.) Calcd. For C26H23F3N3O3: 482.4 (M+MeCN+H), Found 482.3.

reactant | 5-{2-[2-(tert-butyl-dimethyl-silanyloxy)-3-methyl-oxiranyl]-phenyl}-2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazole | 0.0721 mmol, 0.040 g | C(C)(C)(C)[Si](OC1(OC1C)C1=C(C=CC=C1)C1=CC2=C(NC(=N2)COC2=CC=C(C=C2)C(F)(F)F)C=C1)(C)C | C30H33F3N2O3Si
reactant | toluenesulfonic acid monohydrate | 0.0865 mmol, 0.016 g | O.C=1(C(=CC=CC1)S(=O)(=O)O)C
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-hydroxy-1-{2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-phenyl}-propan-1-one | 0.028 g, 89% | OC(C(=O)C1=C(C=CC=C1)C1=CC2=C(NC(=N2)COC2=CC=C(C=C2)C(F)(F)F)C=C1)C | C24H19F3N2O3
